US07202364B2
5-Methoxy-2-bromophenylacetyl chloride (60 g, 0.23 mol) is dissolved in anhydrous Et2O (400 mL), stirred and cooled in an ice bath. A 2 M solution of dimethylamine (228 mL, 0.46 mol) is added dropwise and the mixture allowed to warm to room temperature and stirred for 2 hours. Additional Et2O (500 mL) is added. The organic solution is washed with 1 N HCl (2×500 mL), saturated NaHCO3 (500 mL) and brine (500 mL). The organic layer is dried (Na2SO4) and concentrated by rotary evaporator. The residue is purified using flash chromatography (hexanes/EtOAc, from 7:3 to 1:9). Trituration of the crude product with Et2O/hexanes gives N,N-dimethyl-5-methoxy-2-bromophenylacetamide as a white crystalline solid (m.p. 88–90° C.).

reactant | 5-Methoxy-2-bromophenylacetyl chloride | 0.23 mol, 60 g | COC=1C=CC(=C(C1)CC(=O)Cl)Br | C9H8BrClO2
reactant | dimethylamine | 0.46 mol, 228 mL | CNC | C2H7N
solvent | Et2O | 400 mL | CCOCC | C4H10O
solvent | Et2O | 500 mL | CCOCC | C4H10O
product | N,N-dimethyl-5-methoxy-2-bromophenylacetamide | CN(C(CC1=C(C=CC(=C1)OC)Br)=O)C | C11H14BrNO2
